US04118511
2-(formylamino)-4-phenoxy-1-butanol formate, described in Example 3, with methyl iodide, followed by reduction, gives 1-methoxy-N,N-dimethyl-4-phenoxy-2-butanamine,

reactant | 2-(formylamino)-4-phenoxy-1-butanol formate | C(=O)OCC(CCOC1=CC=CC=C1)NC=O | C12H15NO4
reactant | methyl iodide | CI | CH3I
product | 1-methoxy-N,N-dimethyl-4-phenoxy-2-butanamine | COCC(CCOC1=CC=CC=C1)N(C)C | C13H21NO2
